US06809110B2
In analogy to the procedure described in example 10 d], 2-butoxy-3-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-propionic acid methyl ester (mixture of two diastereomeric racemates) was treated with LiOH to obtain 2-butoxy-3-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-propionic acid as a mixture of two diastereomeric racemates as yellow liquid.

reactant | 2-butoxy-3-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-propionic acid methyl ester | COC(C(CC1=C(C=C(C=C1)OC(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1CC1)C)OCCCC)=O | C30H34F3NO4S
reactant | LiOH | [Li+].[OH-]
product | 2-butoxy-3-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-propionic acid | C(CCC)OC(C(=O)O)CC1=C(C=C(C=C1)OC(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1CC1)C | C29H32F3NO4S
